US08119655B2
Compound 37: 7-(4-methoxybenzyl)-3-methyl-5-trimethylsilyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one
In a 2 L round bottom flask, 5-chloro-1-(4-methoxybenzyl)-3-(5-methyl-3-((trimethylsilyl)ethynyl)pyridin-2-ylamino)pyrazin-2(1H)-one (35.2 g, 77.85 mmol) was taken up with anhydrous toluene (880 mL), attached a reflux condenser and transferred to an oil bath that was heated to 130° C. The reaction was stirred in the oil bath for 94 h and concentrated in vacuo to afford a brown solid. The crude was suspended in ethyl acetate (200 mL) and heated to a mild boil. The product (pale yellow powder, 27.4 g, 89% yield) was collected by filtration, washed with additional ethyl acetate, diethyl ether and dried under high vacuum. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 0.43 (s, 9 H) 2.56 (s, 3 H) 3.80 (s, 3 H) 5.30 (s, 2 H) 6.89 (d, J=8.59 Hz, 2 H) 7.11 (s, 1 H) 7.35 (d, J=8.84 Hz, 2 H) 8.22 (s, 1 H) 8.52 (d, J=1.52 Hz, 1 H). ESI-MS: m/z 392.4 (M+H)+.

reactant | 5-chloro-1-(4-methoxybenzyl)-3-(5-methyl-3-((trimethylsilyl)ethynyl)pyridin-2-ylamino)pyrazin-2(1H)-one | 77.85 mmol, 35.2 g | ClC=1N=C(C(N(C1)CC1=CC=C(C=C1)OC)=O)NC1=NC=C(C=C1C#C[Si](C)(C)C)C | C23H25ClN4O2Si
reactant | toluene | 880 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 7-(4-methoxybenzyl)-3-methyl-5-trimethylsilyl-7,9-dihydro-8H-pyrido[4′,3′:4,5]pyrrolo[2,3-b]pyridin-8-one | 89% yield | COC1=CC=C(CN2C(C3=C(C=4C(=NC=C(C4)C)N3)C(=C2)[Si](C)(C)C)=O)C=C1 | C22H25N3O2Si
